US08957070B2
N-[4-Fluoro-1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
A mixed solution of 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.25 g), 1-bromo-2,2-diethoxyethane (0.24 mL) and N,N-dimethylacetamide (10 ml) was stirred at 90° C. for 7 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=15:85-30:70) to give the title compound (165 mg, yield 62%) as colorless needle crystals.

reactant | 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.25 g | FC1=C2C=C(N(C2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)COC)C(N)=S | C16H16FN3O3S3
reactant | 1-bromo-2,2-diethoxyethane | 0.24 mL | BrCC(OCC)OCC | C6H13BrO2
reactant | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-Fluoro-1-(methoxymethyl)-2-(1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 165 mg, yield 62% | FC1=C2C=C(N(C2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)COC)C=1SC=CN1 | C18H16FN3O3S3
